US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(3-cyano-2-methylisothioureido)propylthio]pyrimidine (0.2 g.), N,N-diethylethylenediamine (0.5 ml.) and methanol (2 ml.) was heated under reflux for 24 hours and then evaporated to dryness. Water was added to the residue, the mixture extracted with ethyl acetate and the ethyl acetate extract dried and evaporated to dryness. The residue was purified by preparative thin layer chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as developing solvent to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-cyano-3-[2-diethylaminoethyl]guanidino)propylthio]-pyrimidine (0.08 g.), characterised as the bis hydrogen maleate, m.p. 76°-80° after recrystallisation from acetone.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(3-cyano-2-methylisothioureido)propylthio]pyrimidine | 0.2 g | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(SC)=NC#N)N)(F)F | C13H17F3N8S2
reactant | N,N-diethylethylenediamine | 0.5 ml | C(C)N(CCN)CC | C6H16N2
solvent | methanol | 2 ml | CO | CH4O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-cyano-3-[2-diethylaminoethyl]guanidino)propylthio]-pyrimidine | 0.08 g | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(=NC#N)NCCN(CC)CC)N)(F)F | C18H29F3N10S
